US08975400B2
7-((4-((2-chloropyridin-4-yl)oxy)-3-fluorobenzyl)oxy)-1-methyl-2,3-dihydroimidaz-o[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (50 mg, 0.269 mmol), sodium hydride (21.55 mg, 0.539 mmol) and (4-((2-chloropyridin-4-yl)oxy)-3-fluorophenyl)methanol (68.3 mg, 0.269 mmol) in DMF (2 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.269 mmol, 50 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.539 mmol, 21.55 mg | [H-].[Na+]
reactant | (4-((2-chloropyridin-4-yl)oxy)-3-fluorophenyl)methanol | 0.269 mmol, 68.3 mg | ClC1=NC=CC(=C1)OC1=C(C=C(C=C1)CO)F | C12H9ClFNO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-((4-((2-chloropyridin-4-yl)oxy)-3-fluorobenzyl)oxy)-1-methyl-2,3-dihydroimidaz-o[1,2-c]pyrimidin-5(1H)-one | ClC1=NC=CC(=C1)OC1=C(C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=C1)F | C19H16ClFN4O3
